US05254595
A mixture of 3-hydroxy-2-methyl-4-oxopyrane (12.6 g), sodium hydroxide (4 g), epichlorohydrin (9.25 g) and water (50 ml) is stirred at room temperature, under nitrogen atmosphere, for 3 hours; then it is extracted four times with chloroform (120 ml) and the organic extracts are combined, washed with water, dried and evaporated to dryness yielding 8.3 g of 3-(2,3-epoxypropoxy)-2-methyl-4-oxopyrane. A mixture of said product and 2-aminotetralin (7.3 g) in absolute ethanol (100 ml) is charged into a sealed vessel, heated to 80° C. for 5 hours, then cooled and evaporated under reduced pressure. The obtained residue is dissolved into ethyl acetate and a solution of fumaric acid in ethyl acetate is then added thereto. The precipitate which forms is recovered by filtration and crystallized from ethanol affording N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2-methyl-4-oxopyran-3-yloxy)propanamine hydrogenfumarate ((i): R=H, Ar=radical 10 wherein Z is methyl, and the chain is attached to position 2 of the tetralin moiety).

reactant | 3-hydroxy-2-methyl-4-oxopyrane | 12.6 g | OC1=C(OC=CC1=O)C | C6H6O3
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
reactant | epichlorohydrin | 9.25 g | C(Cl)C1CO1 | C3H5ClO
solvent | water | 50 ml | O | H2O
product | 3-(2,3-epoxypropoxy)-2-methyl-4-oxopyrane | 8.3 g | O1C(COC2=C(OC=CC2=O)C)C1 | C9H10O4
